US07615664B2
N-Phenyl-5(S)-amino-4(S)-hydroxy-2(S)-isopropyl-7(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-8-methylnonanamide
Analogously to Method C, 0.466 g of 5(S)-{1(S)-azido-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}-3(S)-isopropyidihydrofuran-2-one [324763-46-4] and 0.11 ml of aniline are reacted. The title compound is obtained as a colourless oil. Rf=0.53 (2:1 EtOAc-heptane); Rt=5.41 minutes (gradient I).

reactant | 5(S)-{1(S)-azido-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}-3(S)-isopropyidihydrofuran-2-one | 0.466 g | N(=[N+]=[N-])[C@@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)[C@@H]1C[C@H](C(O1)=O)C(C)C | C25H39N3O5
reactant | aniline | 0.11 ml | NC1=CC=CC=C1 | C6H7N
product | N-Phenyl-5(S)-amino-4(S)-hydroxy-2(S)-isopropyl-7(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-8-methylnonanamide | C1(=CC=CC=C1)NC([C@@H](C[C@@H]([C@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)N)O)C(C)C)=O | C31H48N2O5
